US05945425
2-[[(5-Ethoxy-1H-benzimidazol-2-yl)thio]-methyl]benzenamine monohydrate
The title compound was prepared by the method of Example 1 using 3.00 g of 2-mercapto-5-ethoxybenzimidazole instead of 2-mercaptobenzimidazole and 2.76 g of 2-(chloromethyl)aniline hydrochloride instead of 2-(chloromethyl)-N,N-dimethylaniline in 250 ml of isopropyl alcohol. The basic extraction used 5% sodium hydroxide instead of sodium carbonate. Crystallization during concentration of the dichloromethane extract gave 2.60 g of the title compound as the monohydrate: m.p. 87-89° C. Anal. Calc'd. for C16H17N3OS*H2O: C, 63.76; H, 5.68; N, 13.94; S, 10.64. Found: C, 63,65; H, 5.74; N, 13.89; S, 10.89.

reactant | 2-mercapto-5-ethoxybenzimidazole | 3.00 g | SC=1NC2=C(N1)C=CC(=C2)OCC | C9H10N2OS
reactant | 2-(chloromethyl)aniline hydrochloride | 2.76 g | Cl.ClCC1=C(N)C=CC=C1
solvent | isopropyl alcohol | 250 ml | C(C)(C)O | C3H8O
product | 2-[[(5-Ethoxy-1H-benzimidazol-2-yl)thio]-methyl]benzenamine monohydrate | 2.60 g | O.C(C)OC1=CC2=C(NC(=N2)SCC2=C(C=CC=C2)N)C=C1 | InChI=1S/C16H17N3OS.H2O/c1-2-20-12-7-8-14-15(9-12)19-16(18-14)21-10-11-5-3-4-6-13(11)17;/h3-9H,2,10,17H2,1H3,(H,18,19);1H2
